US04159340
A mixture of 65.2 g (0.20 mole) of 3,4-dichloro-N-(2-sulfocyclopentyl)aniline and 250 ml of a 50 percent allylamine in water solution was heated at 125° C. in autoclave for 48 hours. The resulting reaction mixture was washed from the autoclave 1500 ml solution of methanol. This solution was evaporated until material therefrom oiled out as a separate layer. The oil was extracted with 500 ml of methylene chloride. The organic layer was washed with saturated sodium chloride solution, dried over magnesium sulfate and evaporated to an orange oil. The oil was chromatographed on 600 ml of silica gel eluting with 2 liters of chloroform and 4 liters of ethyl acetate. The ethyl acetate fraction was separated and evaporated to a yellow oil; the trans-3,4-dichloro-N-[2-(N-allylamino)cyclopentyl]aniline. This amine oil was converted to its hydrochloride salt with excess ether-hydrogen chloride mixture and recrystallized from a mixture of 450 ml of methanol and about 2000 ml of ethyl ether to obtain 54.8 g (77 percent yield) of trans-3,4-dichloro-N-[2-(N-allylamino)cyclopentyl]-aniline hydrochloride, m.p. 131°-132° C.

reactant | 3,4-dichloro-N-(2-sulfocyclopentyl)aniline | 0.20 mole, 65.2 g | ClC=1C=C(NC2C(CCC2)S(=O)(=O)O)C=CC1Cl | C11H13Cl2NO3S
reactant | allylamine | C(C=C)N | C3H7N
solvent | water | O | H2O
product | trans-3,4-dichloro-N-[2-(N-allylamino)cyclopentyl]-aniline hydrochloride | 54.8 g, 77 percent yield | Cl.ClC=1C=C(N[C@H]2[C@@H](CCC2)NCC=C)C=CC1Cl | InChI=1S/C14H18Cl2N2.ClH/c1-2-8-17-13-4-3-5-14(13)18-10-6-7-11(15)12(16)9-10;/h2,6-7,9,13-14,17-18H,1,3-5,8H2;1H/t13-,14-;/m1./s1
